US05616586
9-Bromo-5-(p-trifluoromethylphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 52 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (170 mg, 0.5 mmol) and p-trifluoromethylaniline (83 mg, 0.51 mmol) to give 175 mg of the title compound (73%): mp>270° C.; 1H NMR (270 MHz, DMSO-d6) δ12.07 (s, 1H), 10.38 (s, 1H), 7.77 (d, 2H, J=8.6 Hz), 7.74 (d, 2H, J=8.6 Hz), 7.24 (bs, 1H), 7.17 (bs, 1H), 5.18~5.27 (m, 1H), 3.06 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.85 (dm, 1H, J=17.1 Hz), 2.65 (d, 2H, J=7.6 Hz), 2.11 (dm, 1H, J=13.5 Hz), 1.82~1.96 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.5 mmol, 170 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | p-trifluoromethylaniline | 0.51 mmol, 83 mg | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
product | 9-Bromo-5-(p-trifluoromethylphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 175 mg, 73% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=CC=C(C=C2)C(F)(F)F)=O | C20H15BrF3N3O3
